*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXE630ARA101MJC5G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXE630ARA101MJC5G_20deg-C 1 2

C1 4 2 8.20e-05
C2 5 2 4.93e-06
C3 6 2 4.53e-06
R1 3 4 1.32e-02
R2 4 5 2.63e+00
R3 5 6 2.45e+01
L1 1 3 5.20e-09

.ENDS
*$
